US08685969B2
2. 8-Carbamoyl-5-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-3-carboxylic acid
A solution of ethyl 8-carbamoyl-5-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-3-carboxylate (0.26 g, 0.502 mmol) and lithium hydroxide monohydrate (0.070 g, 1.757 mmol) in THF-ethanol-water (3:1:1, 20.10 mL) was stirred at room temperature overnight. After 18 h, residual starting material was observed by LCMS. The mixture was heated at 50° C. for 2 h, then cooled to room temperature and concentrated. The residue was suspended in water and treated with 1 M aqueous HCl (to pH 1-2). The precipitate was collected by filtration, washed with water and dried to provide the desired product as a pale yellow solid (0.205 g, 76%). LCMS (M+H)+ m/z 490.1.

reactant | ethyl 8-carbamoyl-5-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-3-carboxylate | 0.502 mmol, 0.26 g | C(N)(=O)C=1C=CC(=C2C3=C(NC12)C=NC(=C3)C(=O)OCC)C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C | C30H23N5O4
reactant | lithium hydroxide monohydrate | 1.757 mmol, 0.070 g | O.[OH-].[Li+]
solvent | THF ethanol water | 20.10 mL | C1CCOC1.C(C)O.O
product | 8-Carbamoyl-5-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-3-carboxylic acid | 0.205 g, 76% | C(N)(=O)C=1C=CC(=C2C3=C(NC12)C=NC(=C3)C(=O)O)C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C | C28H19N5O4
